US06316466B1
A mixture of 4-fluorophenylhydrazine (1.0 g, 6.8 mmol) and 2-[3-(2-morpholin-4-ylethoxy)-benzoyl]-3-phenylaminoacrylonitrile (2.0 g, 5.3 mmol) in ethanol (30 ml) was heated at reflux under a nitrogen atmosphere. After 6 h, the reaction mixture was cooled to room temperature and diluted with water. The product was extracted into ethyl acetate and the organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. Purification by flash chromatography (elution gradient: CH2Cl2—3%MeOH/CH2Cl2) gave 5-amino-1-(4-fluorophenyl)-4-[3-(2-morpholin-4-ylethoxy)benzoyl]pyrazole which was converted to the hydrochloride salt (0.7 g, mpt. 191.6-192.5° C.).

reactant | 4-fluorophenylhydrazine | 6.8 mmol, 1.0 g | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | 2-[3-(2-morpholin-4-ylethoxy)-benzoyl]-3-phenylaminoacrylonitrile | 5.3 mmol, 2.0 g | N1(CCOCC1)CCOC=1C=C(C(=O)C(C#N)=CNC2=CC=CC=C2)C=CC1 | C22H23N3O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-amino-1-(4-fluorophenyl)-4-[3-(2-morpholin-4-ylethoxy)benzoyl]pyrazole | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)OCCN1CCOCC1)=O | C22H23FN4O3
